US03952101
A solution of 4.22 g. (0.02 mol) of 5-benzyloxy-2-pyridinecarboxaldehyde in 100 ml. of chloroform is treated with 1.66 g. (0.04 mol) of t-butyl isocyanide and 2.40 g. (0.04 mol) of acetic acid and the solution is refluxed gently for five hours. The reaction mixture is washed with 5% sodium bicarbonate solution, dried and evaporated to dryness to give 2-[α-N-t-butylamido)-acetoxymethyl]-5-benzyloxypyridine.

reactant | 5-benzyloxy-2-pyridinecarboxaldehyde | 0.02 mol | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C=O | C13H11NO2
reactant | t-butyl isocyanide | 0.04 mol | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | acetic acid | 0.04 mol | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-benzyloxypyridine | C(C1=CC=CC=C1)OC=1C=CC=NC1 | C12H11NO
